US08557983B2
1,5,8-trioxadispiro[2.2.2.4]dodecane
A dimethyl sulfoxide (40 mL) solution of 1,4-dioxaspiro[4.5]decan-8-one (6.25 g) was added dropwise to a solution of trimethylsulfoxonium iodide (8.8 g) and potassium t-butoxide (4.5 g) in dimethyl sulfoxide (50 mL). The mixture was stirred at room temperature overnight. The mixture was then poured over ice-water and extracted with diethyl ether (3×200 mL). The combined organic extracts were washed with water and brine, dried over Na2SO4, and filtered. Concentration of the filtrate gave the crude product.

reactant | 1,4-dioxaspiro[4.5]decan-8-one | 6.25 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | trimethylsulfoxonium iodide | 8.8 g | [I-].C[S+](=O)(C)C
reactant | potassium t-butoxide | 4.5 g | CC(C)([O-])C.[K+]
solvent | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
product | 1,5,8-trioxadispiro[2.2.2.4]dodecane | O1CC12COC1(CO1)CCCC2 | C9H14O3
